US08039463B2
KOH (38 mg, 0.67 mmol) was added to a solution 2-fluoro-malonic acid diethyl ester (100 mg, 0.563 mmol) in methanol (0.7 mL). The reaction mixture was stirred for 4 hours at ambient temperature then concentrated. The residue was diluted with water, acidified with conc. HCl, and the product was extracted with dichloromethane. The organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford 70 mg (77%) of 2-fluoro-malonic acid monomethyl ester

reactant | KOH | 0.67 mmol, 38 mg | [OH-].[K+]
reactant | 2-fluoro-malonic acid diethyl ester | 0.563 mmol, 100 mg | C(C)OC(C(C(=O)OCC)F)=O | C7H11FO4
solvent | methanol | 0.7 mL | CO | CH4O
product | 2-fluoro-malonic acid monomethyl ester | 70 mg, 77% | COC(C(C(=O)O)F)=O | C4H5FO4
